US06861200B2
To acetone (1,000 mL) were added cis-1,2-cyclohexanedicarboxylic anhydride (308.3 g), 2-hydroxyethyl methacrylate (273.3 g), and 4-dimethylaminopyridine (4.9 g). This mixture was heated with refluxing for 5 hours, and the acetone was distilled off under reduced pressure. Thereafter, 1N hydrochloric acid (500 mL) and ethyl acetate (2,000 mL) were added to the residue to extract it. The resulting organic phase was washed twice with saturated aqueous sodium chloride solution (500 mL), and anhydrous magnesium sulfate (100 g) was then added thereto. This mixture was allowed to stand for 1 hour to dehydrate the organic phase. Subsequently, the magnesium sulfate was removed by filtration and the ethyl acetate was distilled off under reduced pressure to obtain a white solid. The solid was pulverized and then added to water (2,000 mL). After this mixture was stirred for 2 hours, the particles were taken out by filtration and dried. As a result, 2-[2-(methacryloyloxy)ethoxy-carbonyl]cyclohexanecarboxylic acid was obtained as a white solid (518.9 g).

reactant | acetone | 1,000 mL | CC(=O)C | C3H6O
reactant | cis-1,2-cyclohexanedicarboxylic anhydride | 308.3 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | 2-hydroxyethyl methacrylate | 273.3 g | C(C(=C)C)(=O)OCCO | C6H10O3
catalyst | 4-dimethylaminopyridine | 4.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 2,000 mL | O | H2O
product | 2-[2-(methacryloyloxy)ethoxy-carbonyl]cyclohexanecarboxylic acid | C(C(=C)C)(=O)OCCOC(=O)C1C(CCCC1)C(=O)O | C14H20O6
